US07148214B1
1-(phenylmethyl)-4-[1-(phenylmethyl)-1H-imidazol-2-yl]-4-piperidinol (0.124 mol) and AlCl3 (0.31 mol) were stirred in a melt at 120° C. for 1 h. The mixture was cooled, AlCl3 (0.31 mol) was added and the mixture was stirred at 120° C. for 1 h. The mixture was poured into ice, alkalized with NaOH 50% and extracted with CH2Cl2. The organic layer was dried (MgSO4), filtered off and evaporated. The residue was purified by HPLC (eluent: CH2Cl2/(CH3OH/NH3)99/1). The pure fractions were collected and evaporated. The residue was converted into the hydrochloric acid salt (1:2) in (C2H5)2O, yielding 0.91 g of 1′-(phenylmethyl)spiro[imidazo[1,2-b]isoquinoline-10[5H],4′-piperidine]dihydrochloride.dihydrate (2%) (interm. 3; mp. 161.2° C.).

reactant | 1-(phenylmethyl)-4-[1-(phenylmethyl)-1H-imidazol-2-yl]-4-piperidinol | 0.124 mol | C1(=CC=CC=C1)CN1CCC(CC1)(O)C=1N(C=CN1)CC1=CC=CC=C1 | C22H25N3O
reactant | AlCl3 | 0.31 mol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | AlCl3 | 0.31 mol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaOH | [OH-].[Na+]
product | 1′-(phenylmethyl)spiro[imidazo[1,2-b]isoquinoline-10[5H],4′-piperidine]dihydrochloride | 0.91 g | Cl.Cl.C1(=CC=CC=C1)CN1CCC2(CC1)C=1N(CC=3C=CC=CC32)C=CN1 | InChI=1S/C22H23N3.2ClH/c1-2-6-18(7-3-1)16-24-13-10-22(11-14-24)20-9-5-4-8-19(20)17-25-15-12-23-21(22)25;;/h1-9,12,15H,10-11,13-14,16-17H2;2*1H
